US07163954B2
Step 3: Synthesis of [1-Bromo-6-(3-pentanoyl-benzo[b]thiophen-2-yl)-naphthalen-2-yloxy]-acetonitrile:
To a 0° C. suspension of (6-benzo[b]thiophen-2-yl-1-bromo-naphthalen-2-yloxy)-acetonitrile (5.27 g, 13.4 mmol) in chloroform (400 mL) was added valeryl chloride (2.1 mL, 17 mmol) and tin (IV) chloride (2.3 mL, 20 mmol). The reaction mixture was refluxed for 22.5 hours. During reflux, valeryl chloride (8.5 mL, 70 mmol) in four portions and tin (IV) chloride (8.9 mL, 76 mmol) were added in four portions. After cooling to ambient temperature, the reaction mixture was poured into ice water. The phases were separated, and the organic phase was washed with water and brine. It was then dried with anhydrous magnesium sulfate, filtered and solvent evaporated. The residue was purified by flash chromatography using (1) 100% chloroform, (2) 20–60% methylene chloride in hexane and 100% methylene chloride and (3) HPLC in 86% acetonitrile (0.1% trifluoroacetic acid) in water. Evaporating the solvent and extracting with ethyl acetate, washing with water and brine, drying with anhydrous magnesium sulfate, filtering, concentrating and drying in vacuo at 60° C. for 30 minutes yielded (0.356 g, 5.23%) of the title compound as a clear brown gum: mass spectrum (+EI, [M+H]+) m/z 478/480. 1H NMR (500 MHz, DMSO-d6): δ8.24–8.28 (m, 2H), 8.20 (d, 1H, J=1.83 Hz), 8.10 (dd, 1H, J=6.49 Hz and 1.48 Hz), 7.96–7.97 (m, 1H), 7.81 (dd, 1H, J=8.71 Hz and 1.84 Hz), 7.73 (d, 1H, J=9.15 Hz), 7.46–7.52 (m, 2H), 5.47 (s, 2H), 2.42 (t, 2H, J=7.26 Hz), 1.41–1.46 (m, 2H), 0.97–1.04 (m, 2H), 0.57 ppm (t, 3H, J=7.33 Hz). Elemental Analysis for C25H20BrNO2S+0.6 mole H2O: Calcd: C, 61.38; H, 4.37; N, 2.86; Found: C, 61.07; H, 4.21; N, 2.67.

reactant | (6-benzo[b]thiophen-2-yl-1-bromo-naphthalen-2-yloxy)-acetonitrile | 13.4 mmol, 5.27 g | S1C2=C(C=C1C=1C=C3C=CC(=C(C3=CC1)Br)OCC#N)C=CC=C2 | C20H12BrNOS
reactant | valeryl chloride | 17 mmol, 2.1 mL | C(CCCC)(=O)Cl | C5H9ClO
reactant | tin (IV) chloride | 20 mmol, 2.3 mL | [Sn](Cl)(Cl)(Cl)Cl
reactant | valeryl chloride | 70 mmol, 8.5 mL | C(CCCC)(=O)Cl | C5H9ClO
reactant | tin (IV) chloride | 76 mmol, 8.9 mL | [Sn](Cl)(Cl)(Cl)Cl
solvent | chloroform | 400 mL | C(Cl)(Cl)Cl | CHCl3
product | [1-Bromo-6-(3-pentanoyl-benzo[b]thiophen-2-yl)-naphthalen-2-yloxy]-acetonitrile | 0.356 g, 5.23% | BrC1=C(C=CC2=CC(=CC=C12)C1=C(C2=C(S1)C=CC=C2)C(CCCC)=O)OCC#N | C25H20BrNO2S
